US09107916B2
A. [4-fluoro-2-[2-(4-fluorophenyl)ethyl]phenyl]methanol
Charged [4-fluoro-2-[(E)-2-(4-fluorophenyl)ethenyl]phenyl]methanol (568 mg, 2.31 mmol, EXAMPLE 119, part A), Pd/C (65 mg) and methanol (6 mL) to a flask, the mixture was then purged with hydrogen, stirred at room temperature overnight. It was then filtered, filtrate concentrated to give a residue which was purified by flash column chromatograph to give 214 mg of the title compound (37%). 1H NMR (400 MHz, CDCl3): δ 1.42 (1H, t, J=5.2 Hz), 2.83-2.98 (4H, m), 4.59 (2H, d, J=5.6 Hz), 6.88-6.98 (4H, m), 7.08-7.11 (2H, m), 7.29-7.33 (1H, m).

reactant | [4-fluoro-2-[(E)-2-(4-fluorophenyl)ethenyl]phenyl]methanol | FC1=CC(=C(C=C1)CO)\C=C\C1=CC=C(C=C1)F | C15H12F2O
catalyst | Pd/C | 65 mg | [Pd] | Pd
solvent | methanol | 6 mL | CO | CH4O
product | [4-fluoro-2-[2-(4-fluorophenyl)ethyl]phenyl]methanol | 214 mg, 37% | FC1=CC(=C(C=C1)CO)CCC1=CC=C(C=C1)F | C15H14F2O
